US08580795B2
Synthesis of 2-(4-(difluoromethoxy)-8-(methylsulfonamido) dibenzo[b,d]furan-1-yl)-1,3-oxazole-4-carboxylic acid
To a slurry of ethyl 2-(4-(difluoromethoxy)-8-(methylsulfonamido)dibenzo[b,d]furan-1-yl)1,3-oxazole-4-carboxylate (0.2 g, 0.429 mmol) in ethanol (5 mL) and tetrahydrofuran (3 mL) was added potassium hydroxide (0.256 g, 4.562 mmol) in water (0.5 mL). Then it was stirred at room temperature for 16 hours. The solvent was removed in vacuum. The residue was diluted with water and acidified with 1N HCl until the solid separates out. The solid was filtered and washed with hexane. Yield—98.4%. 1H-NMR (DMSO-d6) δ: 3.09 (s, 3H), 7.40 (s, 1H), 7.48-7.51 (m, 1H), 7.59-7.63 (m, 2H), 7.87 (d, 1H), 8.06 (d, 1H), 8.97-8.99 (m, 2H), 9.81 (s, 1H); HPLC (purity): 99.1%; Mass calculated for C18K2F2N2O7S-438.4, observed—437.0; Rf—0.2 (Dichloromethane:Methanol (8:2)).

reactant | ethyl 2-(4-(difluoromethoxy)-8-(methylsulfonamido)dibenzo[b,d]furan-1-yl)1,3-oxazole-4-carboxylate | 0.429 mmol, 0.2 g | FC(OC1=CC=C(C2=C1OC1=C2C=C(C=C1)NS(=O)(=O)C)C=1OC=C(N1)C(=O)OCC)F | C20H16F2N2O7S
reactant | potassium hydroxide | 4.562 mmol, 0.256 g | [OH-].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 2-(4-(difluoromethoxy)-8-(methylsulfonamido) dibenzo[b,d]furan-1-yl)-1,3-oxazole-4-carboxylic acid | Yield—98.4% | FC(OC1=CC=C(C2=C1OC1=C2C=C(C=C1)NS(=O)(=O)C)C=1OC=C(N1)C(=O)O)F | C18H12F2N2O7S
